** Name: SimpleTwoStageOpAmp_SimpleOpAmp40_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp40_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=6e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=5e-6 W=286e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=106e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=142e-6
mDiodeTransistorPmos5 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=300e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=3e-6 W=300e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=55e-6
mNormalTransistorNmos8 out ibias sourceNmos sourceNmos nmos4 L=3e-6 W=600e-6
mNormalTransistorNmos9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=151e-6
mNormalTransistorNmos10 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=151e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=106e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=286e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=341e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=420e-6
mNormalTransistorPmos15 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=3e-6 W=300e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=300e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp40_7

** Expected Performance Values: 
** Gain: 95 dB
** Power consumption: 7.01501 mW
** Area: 14452 (mu_m)^2
** Transit frequency: 18.8151 MHz
** Transit frequency with error factor: 18.8045 MHz
** Slew rate: 17.7329 V/mu_s
** Phase margin: 60.1606°
** CMRR: 110 dB
** negPSRR: 107 dB
** posPSRR: 100 dB
** VoutMax: 4.63001 V
** VoutMin: 0.240001 V
** VcmMax: 3.97001 V
** VcmMin: 1.39001 V


** Expected Currents: 
** NormalTransistorNmos: 91.8041 muA
** NormalTransistorPmos: -217.501 muA
** DiodeTransistorPmos: -41.0869 muA
** NormalTransistorPmos: -41.0879 muA
** NormalTransistorPmos: -41.0869 muA
** DiodeTransistorPmos: -41.0879 muA
** NormalTransistorNmos: 82.1711 muA
** DiodeTransistorNmos: 82.1701 muA
** NormalTransistorNmos: 41.0861 muA
** NormalTransistorNmos: 41.0861 muA
** NormalTransistorNmos: 1001.51 muA
** NormalTransistorPmos: -1001.5 muA
** DiodeTransistorNmos: 217.502 muA
** NormalTransistorNmos: 217.502 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -91.8049 muA


** Expected Voltages: 
** ibias: 0.647001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.23601  V
** inputVoltageBiasXXpXX0: 4.01201  V
** out: 2.5  V
** outFirstStage: 4.06901  V
** outSourceVoltageBiasXXnXX1: 0.618001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.28401  V
** innerTransistorStack1Load1: 4.28401  V
** out1: 3.56901  V
** sourceTransconductance: 1.94501  V
** inner: 0.618001  V


.END