** Name: SimpleTwoStageOpAmp_SimpleOpAmp40_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp40_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX2Yinner VoltageBiasXXnXX2Yinner nmos4 L=3e-6 W=5e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=9e-6 W=28e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=315e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=512e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=10e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=161e-6
mDiodeTransistorPmos7 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=8e-6 W=161e-6
mNormalTransistorNmos8 out ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=512e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=4e-6
mNormalTransistorNmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=110e-6
mNormalTransistorNmos11 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=110e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=9e-6 W=315e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=28e-6
mNormalTransistorNmos14 VoltageBiasXXnXX2Yinner outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=201e-6
mNormalTransistorPmos16 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=8e-6 W=161e-6
mNormalTransistorPmos17 outInputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=8e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=2e-6 W=161e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp40_9

** Expected Performance Values: 
** Gain: 95 dB
** Power consumption: 5.49401 mW
** Area: 14981 (mu_m)^2
** Transit frequency: 13.7871 MHz
** Transit frequency with error factor: 13.7768 MHz
** Slew rate: 16.8274 V/mu_s
** Phase margin: 60.1606°
** CMRR: 101 dB
** negPSRR: 104 dB
** posPSRR: 95 dB
** VoutMax: 4.47001 V
** VoutMin: 0.930001 V
** VcmMax: 3.81001 V
** VcmMin: 1.31001 V


** Expected Currents: 
** NormalTransistorNmos: 7.88301 muA
** NormalTransistorPmos: -6.18499 muA
** DiodeTransistorPmos: -35.1369 muA
** NormalTransistorPmos: -35.1359 muA
** NormalTransistorPmos: -35.1349 muA
** DiodeTransistorPmos: -35.1359 muA
** NormalTransistorNmos: 70.2711 muA
** DiodeTransistorNmos: 70.2701 muA
** NormalTransistorNmos: 35.1361 muA
** NormalTransistorNmos: 35.1361 muA
** NormalTransistorNmos: 1004.5 muA
** DiodeTransistorNmos: 1004.5 muA
** NormalTransistorPmos: -1004.49 muA
** DiodeTransistorNmos: 6.18401 muA
** NormalTransistorNmos: 6.18401 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -7.88399 muA


** Expected Voltages: 
** ibias: 1.33801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX0: 4.01801  V
** out: 2.5  V
** outFirstStage: 3.90501  V
** outInputVoltageBiasXXnXX1: 1.11801  V
** outSourceVoltageBiasXXnXX1: 0.559001  V
** outSourceVoltageBiasXXnXX2: 0.670001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.28001  V
** innerTransistorStack1Load1: 4.28101  V
** out1: 3.40501  V
** sourceTransconductance: 1.90001  V
** inner: 0.559001  V
** inner: 0.666001  V


.END