** Name: SimpleTwoStageOpAmp_SimpleOpAmp43_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp43_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=9e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=21e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=42e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=204e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=4e-6 W=411e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=3e-6 W=58e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=596e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=6e-6 W=290e-6
mNormalTransistorNmos9 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=4e-6 W=20e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=222e-6
mNormalTransistorNmos11 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=4e-6 W=20e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=92e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=92e-6
mNormalTransistorPmos14 out inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=204e-6
mNormalTransistorPmos15 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=3e-6 W=58e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=69e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=69e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=4e-6 W=115e-6
mNormalTransistorPmos19 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=42e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp43_5

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 9.20801 mW
** Area: 9248 (mu_m)^2
** Transit frequency: 13.1321 MHz
** Transit frequency with error factor: 13.1197 MHz
** Slew rate: 12.6521 V/mu_s
** Phase margin: 63.5984°
** CMRR: 100 dB
** VoutMax: 3.21001 V
** VoutMin: 0.580001 V
** VcmMax: 4.04001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 283.791 muA
** NormalTransistorNmos: 106.775 muA
** NormalTransistorNmos: 28.9861 muA
** NormalTransistorNmos: 43.8071 muA
** NormalTransistorNmos: 28.9861 muA
** NormalTransistorNmos: 43.8071 muA
** DiodeTransistorPmos: -28.9869 muA
** NormalTransistorPmos: -28.9869 muA
** NormalTransistorPmos: -29.6449 muA
** NormalTransistorPmos: -14.8219 muA
** NormalTransistorPmos: -14.8219 muA
** NormalTransistorNmos: 1353.35 muA
** NormalTransistorPmos: -1353.34 muA
** DiodeTransistorPmos: -1353.34 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 10.0001 muA
** DiodeTransistorPmos: -283.79 muA
** NormalTransistorPmos: -283.791 muA
** DiodeTransistorPmos: -106.774 muA


** Expected Voltages: 
** ibias: 1.18801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 2.64801  V
** out: 2.5  V
** outFirstStage: 0.983001  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** outSourceVoltageBiasXXpXX1: 3.82401  V
** outVoltageBiasXXpXX2: 4.19501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 4.14501  V
** sourceGCC1: 0.520001  V
** sourceGCC2: 0.520001  V
** sourceTransconductance: 3.21901  V
** inner: 3.82401  V


.END