** Name: SimpleTwoStageOpAmp_SimpleOpAmp43_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp43_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=207e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=16e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=8e-6 W=12e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=6e-6 W=280e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=290e-6
mNormalTransistorNmos6 outFirstStage outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=38e-6
mNormalTransistorNmos7 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=38e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=39e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=39e-6
mNormalTransistorPmos10 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=8e-6 W=407e-6
mNormalTransistorPmos11 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=591e-6
mNormalTransistorPmos12 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=6e-6 W=280e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=8e-6 W=283e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=61e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=61e-6
mNormalTransistorPmos16 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=8e-6 W=64e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp43_7

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 6.06501 mW
** Area: 12354 (mu_m)^2
** Transit frequency: 13.2631 MHz
** Transit frequency with error factor: 13.246 MHz
** Slew rate: 19.3555 V/mu_s
** Phase margin: 67.6091°
** CMRR: 98 dB
** VoutMax: 4.79001 V
** VoutMin: 0.240001 V
** VcmMax: 3.55001 V
** VcmMin: -0.319999 V


** Expected Currents: 
** NormalTransistorPmos: -238.171 muA
** NormalTransistorPmos: -341.482 muA
** NormalTransistorNmos: 37.9831 muA
** NormalTransistorNmos: 65.1151 muA
** NormalTransistorNmos: 37.9811 muA
** NormalTransistorNmos: 65.1111 muA
** DiodeTransistorPmos: -37.9819 muA
** NormalTransistorPmos: -37.9819 muA
** NormalTransistorPmos: -54.2619 muA
** NormalTransistorPmos: -27.1309 muA
** NormalTransistorPmos: -27.1309 muA
** NormalTransistorNmos: 483.075 muA
** NormalTransistorPmos: -483.074 muA
** DiodeTransistorNmos: 238.172 muA
** DiodeTransistorNmos: 341.483 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.82301  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX2: 0.648001  V
** out: 2.5  V
** outFirstStage: 4.22201  V
** outVoltageBiasXXnXX1: 1.00101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 4.22201  V
** sourceGCC1: 0.443001  V
** sourceGCC2: 0.443001  V
** sourceTransconductance: 3.33601  V


.END